US07598257B2
Step 3: 4-(2-Hydroxyethyl)cyclohexanol.
4-(2-Hydroxyethyl)cyclohexanone (2.00 g, 0.0141 mol) was dissolved in ether (30.00 mL) and was cooled at 0° C. To the reaction was added 1.0 M lithium tetrahydroaluminate in ether (14.1 mL) and the resulting mixture was stirred at 0° C. for 2 hours and at 25° C. for 16 hours. To the reaction was added THF (20.00 mL) and this mixture was cooled at 0° C. and then water (0.40 mL, 0.022 mol) was added, followed by 1.00 M sodium hydroxide (0.40 mL). To the reaction was then added ether (100.00 mL) and the resulting mixture was stirred for 10 minutes, then was filtered and the filtrate was concentrated using a rotary evaporator to provide the crude product. The crude product was used in the next reaction without further purification.

reactant | 4-(2-Hydroxyethyl)cyclohexanone | 0.0141 mol, 2.00 g | OCCC1CCC(CC1)=O | C8H14O2
reactant | lithium tetrahydroaluminate | 1.0 M | [AlH4-].[Li+]
reactant | water | 0.022 mol, 0.40 mL | O | H2O
reactant | sodium hydroxide | 1.00 M, 0.40 mL | [OH-].[Na+]
solvent | ether | 30.00 mL | CCOCC | C4H10O
solvent | ether | 14.1 mL | CCOCC | C4H10O
solvent | ether | 100.00 mL | CCOCC | C4H10O
solvent | THF | 20.00 mL | C1CCOC1 | C4H8O
product | 4-(2-Hydroxyethyl)cyclohexanol | OCCC1CCC(CC1)O | C8H16O2
